US07285563B2
2-Aminomethyl-5-(trifluoromethyl)pyridine
To a nitrogen flushed solution of 2-cyano-5-(trifluoromethyl)pyridine (Description 1; 8.0 g, 46.5 mmol) in a mixture of ethanol (100 ml) and ammonium hydroxide (25 ml) was added a spatula end of Raney Nickel and the resulting mixture hydrogenated at 50 psi overnight. The catalyst was removed by filtration and the filtrate was evaporated to dryness. The residue was purified by column chromatography on silica eluting with a gradient rising from 2% MeOH in dichloromethane+0.5% NH4OH to 5% MeOH in dichloromethane+0.5% NH4OH to give the title compound (2.5 g, 30%) as a yellow oil.

reactant | 2-cyano-5-(trifluoromethyl)pyridine | 46.5 mmol, 8.0 g | C(#N)C1=NC=C(C=C1)C(F)(F)F | C7H3F3N2
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | ammonium hydroxide | 25 ml | [OH-].[NH4+]
catalyst | Raney Nickel | [Ni] | Ni
product | 2-Aminomethyl-5-(trifluoromethyl)pyridine | 2.5 g, 30% | NCC1=NC=C(C=C1)C(F)(F)F | C7H7F3N2
